US07592358B2
IP 14b. 6-bromo-4-methyl-1H-quinolin-2-one
A solution of 50.0 g (195 mmol) of N-(4-bromophenyl)-3-oxobutyramide in 217 mL of concentrated sulfuric acid was heated to 120° C. for 1 hour. After cooling to RT, the reaction solution was added to 1.5 L of ice water, stirred for 30 minutes, and the precipitate formed was filtered and washed with 4 L of water. Subsequently it was dried at 35° C. in the circulating air dryer until a constant weight was achieved. Yield: 24.0 g (52% of theoretical); C10H8BrNO (M=238.081); calc.: molpeak (M+H)+: 238/240 (Br); found: molpeak (M+H)+: 238/240 (Br); HPLC-MS: 4.8 minutes (method B).

reactant | N-(4-bromophenyl)-3-oxobutyramide | 195 mmol, 50.0 g | BrC1=CC=C(C=C1)NC(CC(C)=O)=O | C10H10BrNO2
solvent | sulfuric acid | 217 mL | S(O)(O)(=O)=O | H2O4S
product | 6-bromo-4-methyl-1H-quinolin-2-one | BrC=1C=C2C(=CC(NC2=CC1)=O)C | C10H8BrNO
